US05229519
4 grams of 2-chloro-2-chloromethyl-4-cyano-4-methylbutyraldehyde dissolved in 30 mL of acetonitrile is pumped concomitantly with anhydrous HCl into a pre-heated (180°-230° C.) flow reactor packed with NiCl2 -impregnated clay. Short path distillation gives 2-chloro-3-methyl-5-chloromethylpyridine as a liquid.

reactant | 2-chloro-2-chloromethyl-4-cyano-4-methylbutyraldehyde | 4 grams | ClC(C=O)(CC(C)C#N)CCl | C7H9Cl2NO
reactant | HCl | Cl | ClH
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
catalyst | NiCl2 | Cl[Ni]Cl
product | 2-chloro-3-methyl-5-chloromethylpyridine | ClC1=NC=C(C=C1C)CCl | C7H7Cl2N
